US05514680
5-Chloro-6,7-difluoro-1,4-dihydro-2,3-quinoxalinedione
The title compound was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (981 mg, 6.72 mmol) and 3-chloro-4,5-difluoro-1,2-diaminobenzene (120 mg, 0.670 mmol) was heated to reflux under N2 for 15 h. The reaction was allowed to cool to room temperature and the gray solid collected by vacuum filtration and rinsed with ice-cold EtOH (10 mL) and air dried. The solid was taken and dissolved in 5 mL 1N NaOH with heating. The solution was treated with activated charcoal and filtered through a pad of Celite. The resulting solution was carefully acidified with 1N HCl (pH=1). A white powder formed in the solution at pH=6, but a few drops 1N NaOH cleared the solution and upon addition of a few drops 1N HCl white needles slowly formed in the solution. These were collected by vacuum filtration, rinsed with 20 mL of H2O and dried under vacuum (0.1 torr, 78° C.) to yield 24.9 (16%) of pale yellow needles. 1H NMR (d6 -DMSO) δ7.05 (dd, 1H, J=10.5, H-8), 11.6 (br s, 1H, NH), 12.0 (br s, 1H, NH). There was 13% 6,7-difluoro-1,4-dihydro-2,3-quinoxalinedione present by NMR.

reactant | diethyl oxalate | 6.72 mmol, 981 mg | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 3-chloro-4,5-difluoro-1,2-diaminobenzene | 0.670 mmol, 120 mg | ClC=1C(=C(C=C(C1F)F)N)N | C6H5ClF2N2
catalyst | HCl | 1N, a few drops | Cl | ClH
product | 5-Chloro-6,7-difluoro-1,4-dihydro-2,3-quinoxalinedione | ClC1=C2NC(C(NC2=CC(=C1F)F)=O)=O | C8H3ClF2N2O2
